US09212254B2
Trichloro(2-ethylhexyl)silane (synthesized in accordance with J. Am. Chem. Soc. 2008, 130, 16144-16145, 24.8 g) was placed in a 300 mL four-necked flask in a nitrogen atmosphere, and dissolved in tetrahydrofuran (100 mL). The resulting solution was cooled to 0° C., and a solution of n-octyl magnesium bromide in diethyl ether (Sigma-Aldrich Co. LLC., 2.00 M, 50.0 mL) was added dropwise. The reaction solution was agitated for about 30 minutes at 7° C., and then agitated for about 3 hours at room temperature. The solvent was then distilled off with an evaporator. Hexane was added to the resulting crude product, which was then filtered, after which the solvent was again distilled off. Finally, distillation purification (111° C., 0.61 torr) was performed to obtain the target dichloro(2-ethylhexyl)n-octylsilane (Compound G6, 15.9 g, yield 49%).

reactant | Trichloro(2-ethylhexyl)silane | 24.8 g | Cl[Si](CC(CCCC)CC)(Cl)Cl | C8H17Cl3Si
reactant | n-octyl magnesium bromide | C(CCCCCCC)[Mg]Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 2.00 M, 50.0 mL | C(C)OCC | C4H10O
product | dichloro(2-ethylhexyl)n-octylsilane | 15.9 g, yield 49% | Cl[Si](CCCCCCCC)(CC(CCCC)CC)Cl | C16H34Cl2Si
